US05512574
Hexanol was added to a slurry of sodium hydride in THF, and the mixture stirred for 30 minutes. The slurry was cooled to -5° C. and a solution of 2,3-dichloropyrazine added. The mixture was stirred for 1.5 hours, filtered and the filtrate evaporated. The residue was purified by column chromatography on silica gel using varying concentrations of methanol in chloroform. Fractions containing the desired product were evaporated, yielding 2-chloro-3-hexyloxypyrazine as an oil.

reactant | Hexanol | C(CCCCC)O | C6H14O
reactant | sodium hydride | [H-].[Na+]
reactant | 2,3-dichloropyrazine | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-3-hexyloxypyrazine | ClC1=NC=CN=C1OCCCCCC | C10H15ClN2O
